* Z:\mnt\design.r\spice\examples\2052.asc
V1 +V 0 5
V2 -V 0 -5
V3 N003 0 SINE(0 1 1K)
R1 N002 N001 10K
R2 N001 0 10K
XU1 N003 N001 N002 +V -V LTC2052
.tran 3m
.lib LTC2.LIB
.backanno
.end
